US03961054
Preparation of 2-Mercapto-Quinoline-N-Oxide
30.5 g of 2-chloro-quinoline-N-oxide and 850 ml of water were added to a 2-liter flask equipped with a stirrer, condenser, thermometer and dropping funnel. The mixture was heated with stirring to 45°C. 5.8 g of sodium hydrosulfide (50% assay) and 41.7 g of sodium sulfide (32.5% assay) in 155 ml of water were added to the dropping funnel and added dropwise over 2 hours, to the contents of the flask while heating at 65°C for 45 minutes. The reaction mixture which was completely in solution was cooled to room temperature. A solution of 70 g of concentrated hydrochloric acid in 70 ml of water was placed in a dropping funnel and added dropwise to the reaction mixture with stirring. Hydrogen sulfide evolved from the reaction mixture was collected in a 20% NaOH trap. After 1 hour sufficient hydrochloric acid solution was added to bring the pH of the reaction mixture to 1.0. The copious precipitate deposited from the reaction mixture was filtered on a sintered glass funnel, washed with 700 ml of water and dried overnight under vacuum. The product weighed 19.0 g (63.2% yield), had a melting point of 65°-67°C. and was identified by infrared spectroscopy to be 2-mercapto-quinoline-N-oxide.

reactant | 2-chloro-quinoline-N-oxide | 30.5 g | ClC1=[N+](C2=CC=CC=C2C=C1)[O-] | C9H6ClNO
reactant | sodium hydrosulfide | 5.8 g | [SH-].[Na+]
reactant | sodium sulfide | 41.7 g | [S-2].[Na+].[Na+]
reactant | hydrochloric acid | 70 g | Cl | ClH
reactant | Hydrogen sulfide | S | H2S
solvent | water | 155 ml | O | H2O
solvent | water | 70 ml | O | H2O
solvent | water | 850 ml | O | H2O
product | 2-Mercapto-Quinoline-N-Oxide | 63.2% yield | SC1=[N+](C2=CC=CC=C2C=C1)[O-] | C9H7NOS
